US03974281
5-Methyl-3-phenyl-2-(1H)-pyridone (B. E. Witzel, et al. Brit. Patent 1,238,959) is reacted with iodobenzene as in Example 1 to give 1,3-Diphenyl-5-methyl-2-(1H)-pyridone in 77% yield.

reactant | 5-Methyl-3-phenyl-2-(1H)-pyridone | CC=1C=C(C(NC1)=O)C1=CC=CC=C1 | C12H11NO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1,3-Diphenyl-5-methyl-2-(1H)-pyridone | 77% yield | C1(=CC=CC=C1)N1C(C(=CC(=C1)C)C1=CC=CC=C1)=O | C18H15NO
